US06919338B2
4-benzyloxy-3-methoxybenzonitrile
4-benzyloxy-3-methoxybenzaldehyde (4.84 g, 20 mmol) in acetic acid (25 ml) and sodium acetate (3.3 g, 40 mmol) was reacted with hydroxylamine hydrochloride (2.8 g, 40 mmol) at reflux for 6 hours. The mixture was cooled, diluted with water, extracted with methylene chloride, dried over MgSO4, concentrated to give title compound (4.8 g, 100%).

reactant | 4-benzyloxy-3-methoxybenzaldehyde | 20 mmol, 4.84 g | C(C1=CC=CC=C1)OC1=C(C=C(C=O)C=C1)OC | C15H14O3
reactant | sodium acetate | 40 mmol, 3.3 g | C(C)(=O)[O-].[Na+]
reactant | hydroxylamine hydrochloride | 40 mmol, 2.8 g | Cl.NO
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 4-benzyloxy-3-methoxybenzonitrile | 4.8 g, 100% | C(C1=CC=CC=C1)OC1=C(C=C(C#N)C=C1)OC | C15H13NO2
